US09079889B2
To a solution methyl 6-(2,6-difluoro-3-(trifluoromethylsulfonyloxy)phenyl)-5-fluoropicolinate (1.0 equiv.) in dioxane and water (10:1, 0.15M) was added methyl boronic acid (3.0 equiv.) and potassium carbonate (3.0 equiv.). The reaction was degassed with nitrogen for 10 min, then Pd(PPh3)4 (0.1 equiv.) was added to the solution and heated to 100° C. for 3 hours. LC/MS of the reaction at this point indicated complete conversion to the carboxylic acid product (M+H=268). Cooled to room temperature and added water and ethyl acetate. The two layers were separated, the aqueous phase was acidified with concentrated HCl to pH=1 and extracted with ethyl acetate. The organic phase was dried with sodium sulfate, filtered, and concentrated under vacuo to give 6-(2,6-difluoro-3-methylphenyl)-5-fluoropicolinic acid as a clear oil in 97% yield. LC/MS=268.1 (M+H), Rt=0.82 min.

reactant | methyl 6-(2,6-difluoro-3-(trifluoromethylsulfonyloxy)phenyl)-5-fluoropicolinate | 1.0 equiv. | FC1=C(C(=CC=C1OS(=O)(=O)C(F)(F)F)F)C1=C(C=CC(=N1)C(=O)OC)F | C14H7F6NO5S
reactant | methyl boronic acid | 3.0 equiv. | CB(O)O | CH5BO2
reactant | potassium carbonate | 3.0 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.15M | O | H2O
catalyst | Pd(PPh3)4 | 0.1 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2,6-difluoro-3-methylphenyl)-5-fluoropicolinic acid | 97% yield | FC1=C(C(=CC=C1C)F)C1=C(C=CC(=N1)C(=O)O)F | C13H8F3NO2
